US04313949
2-Amino-3-benzoyl-α-(methylthio)phenylacetamide
To a cold (-70° C.) solution of 19.7 g (0.10 mole of 2-amino-benzophenone in 300 ml of methylene chloride, under nitrogen atmosphere, was added a solution of 11.5 g (0.10 mole) of 95% t-butylpochlorite in 30 ml of methylene chloride followed after 10 min by a solution of 10.5 g (0.1 mole) of methylthioacetamide in 300 ml of tetrahydrofuran. The temperature was maintained at or below -55° C. during these additions. After one additional hour at -60° C. the mixture was allowed to warm to room temperature and the precipitate was collected by filtration. The precipitate was slurried in 200 ml of methylene chloride and 11 g (0.11 mole) of triethylamine was added. The mixture was stirred for 5 min. The solution was washed two times with 100 ml of water and the organic phase dried over magnesium sulfate and concentrated under reduced pressure. The residue was washed with diethylether and dried to yield 13.0 g (43%) of a light yellow powder, m.p. 153°-155° C.

reactant | 2-amino-benzophenone | 0.10 mole | NC1=C(C(=O)C2=CC=CC=C2)C=CC=C1 | C13H11NO
reactant | methylthioacetamide | 0.1 mole, 10.5 g | CCC(=S)N | C3H7NS
reactant | triethylamine | 0.11 mole, 11 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-Amino-3-benzoyl-α-(methylthio)phenylacetamide | 13.0 g, 43% | NC1=C(C=CC=C1C(C1=CC=CC=C1)=O)C(C(=O)N)SC | C16H16N2O2S
